US04906774
IPDI+JEFFAMINE® D-230 (1:2)
The same experimental procedures were repeated. A mixture of IPDI (22.2 g, 0.10M) in i-PrOH (11.2 g) was added into the solution of D-230 (46 g, 0.20M) in i-PrOH (18 g) and water (5 g) over a 3 hour period at 20°-30° C. The resulting product solution was analyzed to be 1.88 meq/g for amine (calc. 1.95 meq/g).

reactant | IPDI | 0.10M, 22.2 g | CC1(CC(CC(C1)(C)CN=C=O)N=C=O)C | C12H18N2O2
reactant | water | 5 g | O | H2O
reactant | i-PrOH | 11.2 g | CC(C)O | C3H8O
reactant | i-PrOH | 18 g | CC(C)O | C3H8O
product | IPDI JEFFAMINE | CC1(CC(CC(C1)(C)CN=C=O)N=C=O)C.CC(COCC(C)OCC(C)OCC(C)N)N | InChI=1S/C12H28N2O3.C12H18N2O2/c1-9(13)5-15-7-11(3)17-8-12(4)16-6-10(2)14;1-11(2)4-10(14-9-16)5-12(3,6-11)7-13-8-15/h9-12H,5-8,13-14H2,1-4H3;10H,4-7H2,1-3H3
